US04418068
6-hydroxy-2-(4-hyroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene
The crude product of Example 2 above, 6-benzoyloxy-2-(4-benzoyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride, was combined with 400 ml. of ethanol, 400 ml. of water and 55 ml. of methanesulfonic acid. The mixture was stirred on the steam bath for 72 hours, and was then evaporated down to an oil which was diluted to about 6 liters with water. The aqueous solution was washed twice with 1 liter portions of diethyl ether, and was then thoroughly degassed under vacuum, cooled to about 20° C., and made basic with aqueous ammonia to pH 8.4. The product which precipitated was collected by filtration and vacuum dried, and was then recrystallized from about 80 ml. of acetone. The product was vacuum dried at 40° C. to obtain 18.1 g. of crystals which was found by nmr, mass spectrum, infrared and ultraviolet analysis to be substantially identical to the product of Example 3.

reactant | 6-benzoyloxy-2-(4-benzoyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC(C2=CC=CC=C2)=O)C1
reactant | ethanol | C(C)O | C2H6O
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | water | O | H2O
product | 6-hydroxy-2-(4-hyroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | C28H27NO4S
